US07855290B2
N-(4-{[2-(Aminocarbonyl)pyridin-4-yl]oxy}-2,5-difluorophenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
To a suspension of 1-[4-(2-carbamoylpyridin-4-yl)oxy-2,5-difluorophenylaminocarbonyl]cyclopropanecarboxylic acid (100 mg) and 4-fluoroaniline (0.051 ml) in tetrahydrofuran (4 ml) was added 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (157 mg), followed by stirring at room temperature 23 hr. The reaction mixture was partitioned between ethyl acetate and an aqueous solution of sodium hydrogencarbonate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:2, ethyl acetate, then ethyl acetate:methanol=10:1), and fractions containing the target compound were concentrated under reduced pressure. The residue was dried under reduced pressure to provide the titled compound as a white solid (133.5 mg, quant.).

reactant | 1-[4-(2-carbamoylpyridin-4-yl)oxy-2,5-difluorophenylaminocarbonyl]cyclopropanecarboxylic acid | 100 mg | C(N)(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C1(CC1)C(=O)O)F | C17H13F2N3O5
reactant | 4-fluoroaniline | 0.051 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate | 157 mg | O.[Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | N-(4-{[2-(Aminocarbonyl)pyridin-4-yl]oxy}-2,5-difluorophenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 133.5 mg | NC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C23H17F3N4O4
